US06531477B1
Part A: To a stirred, cooled (0° C.) solution of 9.26 g (20 mmol) of 1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(4-aminobenzyl)pyrazolo[3,4-d]pyrimidin-4-one in 45 mL of THF and 10 mL of DMF was added 3.90 mL (28 mmol) of triethylamine followed by 1.99 mL (25 mmol) of chloroacetyl chloride over 5 min. The solution was stirred 30 min. at 0° C. and quenched by addition of 150 mL of 0.1 N aq. HCl. The resulting solid was collected by filtration, washed with water then 1:1 ether-hexanes, and air-dried to afford 10.2 g (95%) of 1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(4-(chloroacetamido)benzyl)pyrazolo[3,4-d]pyrimidin-4-one as a white solid. 1H NMR (300 MHz, DMSO) δ 12.49(s, 1H); 9.74(s, 1H); 7.97(s, 2H); 7.46(d, 2H, J=8.0 Hz); 7.20(d, 2H, J=8.8 Hz); 4.19(s, 2H); 3.80(s, 2H); 3.20-3.33(m, 1H); 1.28(d, 6H, J=6.9 Hz).

reactant | 1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(4-aminobenzyl)pyrazolo[3,4-d]pyrimidin-4-one | 20 mmol, 9.26 g | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=C2C1=NC(=NC2=O)CC2=CC=C(C=C2)N)C(C)C | C21H18Cl3N5O
reactant | triethylamine | 28 mmol, 3.90 mL | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 25 mmol, 1.99 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(2,4,6-trichlorophenyl)-3-isopropyl-6-(4-(chloroacetamido)benzyl)pyrazolo[3,4-d]pyrimidin-4-one | 10.2 g, 95% | ClC1=C(C(=CC(=C1)Cl)Cl)N1NC(=C2C1=NC(=NC2=O)CC2=CC=C(C=C2)NC(CCl)=O)C(C)C | C23H19Cl4N5O2
